US07381719B2
Part B: 2-[4-(2-Aminoethyl)phenoxy]nicotinamide
Dissolve {2-[4-(3-carbamoylpyridin-2-yloxy)phenyl]ethyl}carbamic acid tert-butyl ester (0.518 g, 1.45 mmol) in dichloromethane (8.4 mL). Add TFA (8.4 mL) and stir at room temperature for 4 hours. Concentrate the reaction mixture. Load the product onto an SCX column with methanol. Wash the column with methanol then elute with 50% (2.0 M NH3 in methanol) in methanol to give the title compound (0.38 g, 100%): TOF MS ES+ 258.1 (M+H)+, base peak TOF ES+ 241.1 (M−NH2)+, HRMS calcd for C14H16N3O2 258.1243 (M+H)+, found 258.1228, time 0.34 min; HPLC [YMC-Pack Pro C-18 (150×4.6 mm, S-5 microm), acetonitrile in water containing 0.01% concentrated HCl at 1.0 mL/min, 5-95% over 19 min], tR=13.4 min, 100% purity.

reactant | {2-[4-(3-carbamoylpyridin-2-yloxy)phenyl]ethyl}carbamic acid tert-butyl ester | 1.45 mmol, 0.518 g | C(C)(C)(C)OC(NCCC1=CC=C(C=C1)OC1=NC=CC=C1C(N)=O)=O | C19H23N3O4
reactant | TFA | 8.4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 8.4 mL | ClCCl | CH2Cl2
product | 2-[4-(2-Aminoethyl)phenoxy]nicotinamide | 0.38 g, 100% | NCCC1=CC=C(OC2=C(C(=O)N)C=CC=N2)C=C1 | C14H15N3O2
